US09102607B2
350 mg (2.8 mmol) of N,N-dimethylaminopyridine and 8.1 ml (46.9 mmol) of N,N-diisopropylethylamine are added to a solution containing 20.9 g (95.7 mmol) of di(tert-butyl)dicarbonate in 150 ml of tetrahydrofuran under a stream of nitrogen. 10 ml (93.8 mmol) of salicylaldehyde are added dropwise. After stirring at ambient temperature for 2 hours, the medium is treated with a 1N aqueous hydrochloric acid solution and then extracted with a heptane/ethyl acetate 1/1 mixture. The organic phase is dried over magnesium sulphate, filtered and concentrated. 21.5 g of 2-(tert-butoxycarbonyloxy)benzaldehyde are obtained in the form of a yellow oil with a quantitative yield.

reactant | N,N-diisopropylethylamine | 46.9 mmol, 8.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di(tert-butyl)dicarbonate | 95.7 mmol, 20.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | salicylaldehyde | 93.8 mmol, 10 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(tert-butoxycarbonyloxy)benzaldehyde | 21.5 g, quantitative yield | C(C)(C)(C)OC(=O)OC1=C(C=O)C=CC=C1 | C12H14O4
